US05500406
0.84 g (6 mmol) of 2-amino-4-methyl-6-methoxytriazine was suspended in 20 ml of dry tetrahydrofuran, and 0.85 g (6 mmol) of chlorosulfonyl isocyanate was dropwise added thereto at room temperature. A heat was generated mildly, and the reaction mixture turned to a pale yellow solution. Then, 1.64 g (6 mmol) of 2-imino-3-(3-chloroallyloxy)thiazolidine hydrobromide and 1.43 g (14 mmol) of triethylamine suspended in 15 ml of dry tetrahydrofuran were gradually added thereto, and the mixture was further stirred at room temperature for 30 minutes. The solvent was distilled off under reduced pressure, and then water was added to the obtained residue. The resulting oily substance was extracted three times with 80 ml of chloroform. The extract solution was washed once with 100 ml of water and dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure. Obtained crystals were washed with ethyl ether and acetonitrile to obtain 1.2 g of desired 1-[3-(3-chloroallyloxy)thiazolidine-2-sulfonylimino]-3-(4-methyl-6-methoxytriazin-2-yl)urea.

reactant | 2-amino-4-methyl-6-methoxytriazine | 6 mmol, 0.84 g | NN1NC(=CC(=N1)C)OC | C5H10N4O
reactant | chlorosulfonyl isocyanate | 6 mmol, 0.85 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 2-imino-3-(3-chloroallyloxy)thiazolidine hydrobromide | 6 mmol, 1.64 g | Br.N=C1SCCN1OCC=CCl
reactant | triethylamine | 14 mmol, 1.43 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[3-(3-chloroallyloxy)thiazolidine-2-sulfonylimino]-3-(4-methyl-6-methoxytriazin-2-yl)urea | 1.2 g | ClC=CCON1C(SCC1)S(=O)(=O)N=NC(=O)NN1NC(=CC(=N1)C)OC | C12H18ClN7O5S2
